US08193349B2
To a solution of trans-4-nitro-benzoic acid 3-methoxycarbonylmethyl-cyclobutyl ester (540 mg, 1.84 mmol) in MeOH (20 mL) is added H2O (2.4 mL), THF (10 mL), and K2CO3 (255 mg, 1.84 mmol) at room temperature. The mixture is stirred at room temperature for 45 minutes. The solvent is removed under reduced pressure. Water is added to the obtained residue, and the mixture is extracted with dichloromethane. The organic layer is concentrated under reduced pressure then purified by silica gel column chromatography to give trans-(3-hydroxy-cyclobutyl)-acetic acid methyl ester (230 mg, 87%); TLC (hexane/AcOEt, 1:1) Rf 0.40, 1H NMR (400 MHz, chloroform-d) δ ppm 1.69-1.70 (m, 1H), 2.07-2.19 (m, 4H), 2.44-2.46 (d, 2H), 2.41-2.69 (m, 1H), 3.66 (s, 3H), 4.39-4.47 (m, 1H).

reactant | trans-4-nitro-benzoic acid 3-methoxycarbonylmethyl-cyclobutyl ester | 1.84 mmol, 540 mg | COC(=O)C[C@@H]1C[C@H](C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H15NO6
reactant | H2O | 2.4 mL | O | H2O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | K2CO3 | 1.84 mmol, 255 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
product | trans-(3-hydroxy-cyclobutyl)-acetic acid methyl ester | 230 mg, 87% | COC(C[C@@H]1C[C@H](C1)O)=O | C7H12O3
